US07572801B2
In analogy to the procedure described in example 78.4, 2-chloro-N-{2-[2-(3-chloro-4-fluoro-phenyl)-ethoxy]-1-imino-ethyl}-5-ethyl-nicotinamide was treated with KOtBu in DMSO to obtain 2-[2-(3-chloro-4-fluoro-phenyl)-ethoxymethyl]-6-ethyl-3H-pyrido[2,3-d]pyrimidin-4-one as off-white crystals. MS: m/e=362.1 [M+H+].

reactant | 2-chloro-N-{2-[2-(3-chloro-4-fluoro-phenyl)-ethoxy]-1-imino-ethyl}-5-ethyl-nicotinamide | ClC1=C(C(=O)NC(COCCC2=CC(=C(C=C2)F)Cl)=N)C=C(C=N1)CC | C18H18Cl2FN3O2
reactant | KOtBu | CC(C)(C)[O-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-[2-(3-chloro-4-fluoro-phenyl)-ethoxymethyl]-6-ethyl-3H-pyrido[2,3-d]pyrimidin-4-one | ClC=1C=C(C=CC1F)CCOCC=1NC(C2=C(N1)N=CC(=C2)CC)=O | C18H17ClFN3O2
